US06413448B1
1C 2-Pentyl-1,3-butadiene
To a flask containing cuprous bromide (1.0 g) is added bromopentane (23 g) and tetrahydrofaran (154 mL). The solution is cooled to 0° C., and the Grignard reagent 1B is added. The reaction is stirred overnight, gradually warming to room temperature. To the solution is then added 30 mL saturated ammonium chloride. The reaction mixture is stirred for 10 minutes, during which time the aqueous layer turns blue. The reaction mixture is then extracted with hexanes, and the combined organic layers are dried over magnesium sulfate. The solvent is carefully removed by rotary evaporation to give 17 g of a colorless, malodorous liquid.

reactant | bromopentane | 23 g | BrCCCCC | C5H11Br
solvent | ammonium chloride | 30 mL | [Cl-].[NH4+]
product | 2-Pentyl-1,3-butadiene | C(CCCC)C(=C)C=C | C9H16
